US08133908B2
Description 39: methyl 6-methyl-3-(2H-1,2,3-triazol-2-yl)-2-pyridinecarboxylate (D39)
DMF (1.5 ml) was added to a mixture of methyl 3-iodo-6-methyl-2-pyridinecarboxylate D36 (100 mg), 1H-1,2,3-triazole (49.9 mg, 0.722 mmol), (1R,2R)—N,N′-dimethyl-1,2-cyclohexanediamine (10.27 mg, 0.072 mmol), CuI (3.44 mg, 0.018 mmol) and Cs2CO3 carbonate (235 mg, 0.722 mmol) in a microwave vial. The mixture was degassed via three vacuum/nitrogen cycles then irradiated in a single mode microwave reactor to 120° C. for 20 minutes. The mixture was irradiated in a single mode microwave reactor to 120° C. for a further 40 minutes. The reaction mixture was cooled and filtered washing the solids with EtOAc. The solids were dissolved in pH=3 buffer solution (5 ml); UPLC check of this aqueous solution showed it contained a considerable quantity of 6-methyl-3-(2H-1,2,3-triazol-2-yl)-2-pyridinecarboxylic acid. The aqueous phase was extracted repeatedly with DCM; the combined DCM extracts were diluted with MeOH (50 ml) and treated with TMS-diazomethane. The volatiles were evaporated to give a yellow residue that was purified by flash chromatography on silica gel (Biotage, SNAP 10 g column, 10%-50% EtOAc/Cy) to give the title compound D39 (38 mg) as a white solid. UPLC (Basic QC_POS—50-800): rt=0.57 minutes, peak observed: 219 (M+1). C10H10N4O2 requires 218. 1H NMR (400 MHz, CDCl3) δ ppm 8.20 (d, 1 H), 7.87 (s, 2 H), 7.44 (d, 1 H), 3.94 (s, 3 H), 2.71 (s, 3 H).

reactant | methyl 3-iodo-6-methyl-2-pyridinecarboxylate | IC=1C(=NC(=CC1)C)C(=O)OC | C8H8INO2
reactant | 1H-1,2,3-triazole | 0.722 mmol, 49.9 mg | N1N=NC=C1 | C2H3N3
reactant | (1R,2R)—N,N′-dimethyl-1,2-cyclohexanediamine | 0.072 mmol, 10.27 mg | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | Cs2CO3 carbonate | 0.722 mmol, 235 mg | C(=O)([O-])[O-].[Cs+].[Cs+].C([O-])([O-])=O
catalyst | CuI | 0.018 mmol, 3.44 mg | [Cu]I
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | methyl 6-methyl-3-(2H-1,2,3-triazol-2-yl)-2-pyridinecarboxylate | CC1=CC=C(C(=N1)C(=O)OC)N1N=CC=N1 | C10H10N4O2
